US07790882B2
Trifluoromethanesulfonic acid 1-[4-((R)-2-ethyl-2-hydroxy-1-phenylbutylamino)phthalazin-1-yl]-naphthalen-2-yl ester
To trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-naphthalen-2-yl ester (600 mg, 1.37 mmol) was added 3-((R)-aminophenyl-methyl)pentan-3-ol (1.06 g, 5.49 mmol). The resulting suspension was stirred for 24 hrs at 120° C. The mixture was purified by flash chromatography on silica gel (toluene/EtOAc 10:0→5:1) followed by crystallization from diethyl ether to give 451 mg of the title compound as a white powder as a mixture of diastereomers. (yield: 55%)

reactant | trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-naphthalen-2-yl ester | 1.37 mmol, 600 mg | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C19H10ClF3N2O3S
reactant | 3-((R)-aminophenyl-methyl)pentan-3-ol | 5.49 mmol, 1.06 g | N[C@@H](C(CC)(CC)O)C1=CC=CC=C1 | C12H19NO
product | Trifluoromethanesulfonic acid 1-[4-((R)-2-ethyl-2-hydroxy-1-phenylbutylamino)phthalazin-1-yl]-naphthalen-2-yl ester | 451 mg, yield: 55% | C(C)C([C@@H](C1=CC=CC=C1)NC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)(CC)O | C31H28F3N3O4S
